US07314888B1
In 30 ml of N,N-dimethylformamide are suspended 2.81 g of ethyl 5-methyl-1H-indole-2-carboxylate, 17.0 g of potassium carbonate and 11.3 ml of isobutyl iodide. The suspension is stirred at 120° C. for one hour. The reaction mixture is added to a mixture of ethyl acetate and water, and the organic layer is separated. The organic layer thus obtained is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and then the solvent is distilled off under reduced pressure. The residue thus obtained is purified by silica gel column chromatography (eluent: toluene) to obtain 1.75 g of ethyl 1-isobutyl-5-methyl-1H-indole-2-carboxylate as a light yellow oily product.

reactant | ethyl 5-methyl-1H-indole-2-carboxylate | 2.81 g | CC=1C=C2C=C(NC2=CC1)C(=O)OCC | C12H13NO2
reactant | potassium carbonate | 17.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | isobutyl iodide | 11.3 ml | C(C(C)C)I | C4H9I
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 1-isobutyl-5-methyl-1H-indole-2-carboxylate | 1.75 g | C(C(C)C)N1C(=CC2=CC(=CC=C12)C)C(=O)OCC | C16H21NO2
